### PR TITLE
[Merged by Bors] - chore: make m(v)fderiv(Within)_eq_fderiv(Within) more type-correct

### PR DESCRIPTION
**Pull request by grunweg**
---

- [x] depends on: #42443

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 1]
```diff
@@ -606,10 +605,46 @@ protected theorem MDifferentiableAt.mvfderiv {f : M → E'} (h : MDiffAt f x) :
...
   convert! h.mfderiv
 
+section
+
+variable {f : E → E'} {s : Set E} {x : E}
+
+/-- For maps between vector spaces, `mvfderivWithin` and `fderivWithin` coincide -/
+@[simp]
+theorem mvfderivWithin_eq_fderivWithin :
+    d[s] f x = fderivWithin 𝕜 f s x := by
```
Comment (scholzhannah) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]: Technically, this lemma and the one below are also not fully fine with respect to defeq. Should this also be precomposed with `NormedSpace.fromTangentSpace` like below?

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 2]
```diff
@@ -606,10 +605,46 @@ protected theorem MDifferentiableAt.mvfderiv {f : M → E'} (h : MDiffAt f x) :
...
+@[simp]
+theorem mvfderiv_eq_fderiv : d% f x = fderiv 𝕜 f x := by
+  rw [← mvfderivWithin_univ, ← fderivWithin_univ, mvfderivWithin_eq_fderivWithin]
+
+/-- For maps between vector spaces, `mfderivWithin` and `fderivWithin` coincide -/
+theorem mfderivWithin_eq_fderivWithin :
+    mfderiv[s] f x =
+      (NormedSpace.fromTangentSpace (𝕜 := 𝕜) (f x)).symm ∘L (fderivWithin 𝕜 f s x) ∘L
+        (NormedSpace.fromTangentSpace (𝕜 := 𝕜) x) := by
+  convert! mvfderivWithin_eq_fderivWithin
```
Comment (scholzhannah) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:634]: I am not sure that this is the case but since the statement is now free of defeq abuse, should the proof also be free of it?

**Review by scholzhannah — COMMENTED** [review]
Thanks for doing this! I have left two questions/comments about the design below.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]: Good question. I have made it so now.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:634]: Sébastien Gouezel would call this "defeq use", I guess.
The only alternatives I see right now is repeating the above proof, which is not great. I think this is fine.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 3]
```diff
@@ -609,28 +609,35 @@ section
 
 variable {f : E → E'} {s : Set E} {x : E}
 
-/-- For maps between vector spaces, `mvfderivWithin` and `fderivWithin` coincide. -/
+/-- For maps between vector spaces, `mvfderivWithin` and `fderivWithin` coincide -/
```
Comment (scholzhannah) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:612]:
```suggestion
/-- For maps between vector spaces, `mvfderivWithin` and `fderivWithin` coincide. -/
```
This PR is deleting the periods from the previous PR.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 4]
```diff
@@ -609,28 +609,35 @@ section
...
+    d[s] f x = (fderivWithin 𝕜 f s x) ∘L (NormedSpace.fromTangentSpace (𝕜 := 𝕜) x) := by
   by_cases h : MDiffAt[s] f x
   · simp [mvfderivWithin, mfderivWithin, h, chartAt_self_eq]
     rfl
   · simp only [mvfderivWithin, mfderivWithin, h]
     rw [mdifferentiableWithinAt_iff_differentiableWithinAt] at h
     exact (fderivWithin_zero_of_not_differentiableWithinAt h).symm
 
-/-- For maps between vector spaces, `mvfderiv` and `fderiv` coincide. -/
+/-- For maps between vector spaces, `mvfderiv` and `fderiv` coincide -/
```
Comment (scholzhannah) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:623]:
```suggestion
/-- For maps between vector spaces, `mvfderiv` and `fderiv` coincide. -/
```

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 5]
```diff
@@ -609,28 +609,35 @@ section
...
 @[simp]
-theorem mvfderiv_eq_fderiv : d% f x = fderiv 𝕜 f x := by
+theorem mvfderiv_eq_fderiv :
+    d% f x = (fderiv 𝕜 f x) ∘L (NormedSpace.fromTangentSpace (𝕜 := 𝕜) x) := by
   rw [← mvfderivWithin_univ, ← fderivWithin_univ, mvfderivWithin_eq_fderivWithin]
 
-/-- For maps between vector spaces, `mfderivWithin` and `fderivWithin` coincide. -/
-theorem mfderivWithin_eq_fderivWithin : mfderiv[s] f x = fderivWithin 𝕜 f s x := by
+/-- For maps between vector spaces, `mfderivWithin` and `fderivWithin` coincide -/
```
Comment (scholzhannah) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:629]:
```suggestion
/-- For maps between vector spaces, `mfderivWithin` and `fderivWithin` coincide. -/
```

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 6]
```diff
@@ -609,28 +609,35 @@ section
...
+theorem mfderivWithin_eq_fderivWithin :
+    mfderiv[s] f x =
+      (NormedSpace.fromTangentSpace (𝕜 := 𝕜) (f x)).symm ∘L (fderivWithin 𝕜 f s x) ∘L
+        (NormedSpace.fromTangentSpace (𝕜 := 𝕜) x) := by
   convert! mvfderivWithin_eq_fderivWithin
 
-/-- For maps between vector spaces, `mfderiv` and `fderiv` coincide. -/
-theorem mfderiv_eq_fderiv : mfderiv% f x = fderiv 𝕜 f x := by
+/-- For maps between vector spaces, `mfderiv` and `fderiv` coincide -/
```
Comment (scholzhannah) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:636]:
```suggestion
/-- For maps between vector spaces, `mfderiv` and `fderiv` coincide. -/
```

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 7]
```diff
@@ -609,28 +609,35 @@ section
...
 @[simp]
-theorem mvfderiv_eq_fderiv : d% f x = fderiv 𝕜 f x := by
+theorem mvfderiv_eq_fderiv :
+    d% f x = (fderiv 𝕜 f x) ∘L (NormedSpace.fromTangentSpace (𝕜 := 𝕜) x) := by
   rw [← mvfderivWithin_univ, ← fderivWithin_univ, mvfderivWithin_eq_fderivWithin]
 
-/-- For maps between vector spaces, `mfderivWithin` and `fderivWithin` coincide. -/
-theorem mfderivWithin_eq_fderivWithin : mfderiv[s] f x = fderivWithin 𝕜 f s x := by
+/-- For maps between vector spaces, `mfderivWithin` and `fderivWithin` coincide -/
+theorem mfderivWithin_eq_fderivWithin :
```
Comment (scholzhannah) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:630]: Before, we didn't make this lemma and the one below `simp` lemmas because they had defeq abuse. Now that they don't we could make them `simp` lemmas. What do you think?

**Review by scholzhannah — COMMENTED** [review]
Here are some more (mostly cosmetic) comments.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:630]: Hm... good question. I'm not sure if the right hand side of these is really simpler, though. I'm inclined to leave them as-is for now. What do you think?

Comment (scholzhannah) [reply Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean:630]: Yes, I agree. We can easily make them simp lemmas in the future if needed.

**Comment by scholzhannah** [comment]
This looks good to me now! Thanks! 

maintainer merge

**Comment by ocfnash** [comment]
bors merge
